US07091247B2
3′-{({2-[4-(Aminosulfonyl)phenyl]ethyl}[(benzyloxy)acetyl]amino)methyl}-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide
Pyridine (0.16 ml) and benzyloxyacetyl chloride (0.16 ml) were added to a solution of 3′-[{2-[4-(aminosulfonyl)phenyl]ethyl}aminomethyl]-N-[2-(1-pyrrolidinyl)ethyl]-[1,1′-biphenyl]-3-carboxamide (506 mg) in DMF (10 ml). The reaction mixture was stirred at room temperature for 16 hours, then diluted with water and extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residues were purified by silica gel column chromatography (dichloromethane/methanol=98/2), whereby the title compound (257 mg) was obtained.

reactant | Pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | benzyloxyacetyl chloride | 0.16 ml | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | 3′-[{2-[4-(aminosulfonyl)phenyl]ethyl}aminomethyl]-N-[2-(1-pyrrolidinyl)ethyl]-[1,1′-biphenyl]-3-carboxamide | 506 mg | NS(=O)(=O)C1=CC=C(C=C1)CCNCC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)NCCN1CCCC1 | C28H34N4O3S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3′-{({2-[4-(Aminosulfonyl)phenyl]ethyl}[(benzyloxy)acetyl]amino)methyl}-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide | NS(=O)(=O)C1=CC=C(C=C1)CCN(C(COCC1=CC=CC=C1)=O)CC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)NCCN1CCCC1 | C37H42N4O5S
